US07402684B2
2-(4-Methoxy-phenyl)-oxazole:
The title compound (0.16 g, 33%) was prepared from oxazole (0.74 g, 10.7 mmol) and 4-bromoanisole (2.0 g, 10.7 mmol) using the procedure of Example 146, step 1; 1HNMR (400 MHz, CDCl3) δ 8.0 (d, J=9.2 Hz, 2H), 7.66 (d, J=1.2 Hz, 1H), 7.19 (d, J=0.8 Hz, 1H), 6.97 (d, J=8.8 Hz, 2H), 3.87 (s, 3H).

reactant | oxazole | 10.7 mmol, 0.74 g | O1C=NC=C1 | C3H3NO
reactant | 4-bromoanisole | 10.7 mmol, 2.0 g | BrC1=CC=C(C=C1)OC | C7H7BrO
product | 2-(4-Methoxy-phenyl)-oxazole | 0.16 g, 33% | COC1=CC=C(C=C1)C=1OC=CN1 | C10H9NO2
